US05166347
Preparation of N-cyano-N'-[2-(2-methoxyphenyl)ethyl]-4-pyridinecarboximidamide (method i)
Isopropyl N-cyano-4-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 2-(2-methoxyphenyl)ethylamine (0.44 g, 2.9 mmol) was added. The mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was subjected to chromatography on a silica gel column (WAKO GEL C-200, 40 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure and crystallized from chloroform-diethyl ether to give the title compound (0.45 g, 1.6 mmol, yield: 61%) as colorless crystals.

reactant | Isopropyl N-cyano-4-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C1=CC=NC=C1 | C10H11N3O
reactant | 2-(2-methoxyphenyl)ethylamine | 2.9 mmol, 0.44 g | COC1=C(C=CC=C1)CCN | C9H13NO
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-[2-(2-methoxyphenyl)ethyl]-4-pyridinecarboximidamide | 1.6 mmol, 0.45 g, yield: 61% | C(#N)NC(=NCCC1=C(C=CC=C1)OC)C1=CC=NC=C1 | C16H16N4O
